US05610293
A. Synthesis of 4,7,10,13-Tetra(p-toluenesulfonyl)-1-oxa-4,7,10,13-tetraazacyclopentadecan
To a stirred solution of 1,4,7,10-tetra(p-toluenesulfonyl)-1,4,7,10-tetraazadecane prepared as in Example 15B (35.3 g, 0.0463 mole) in anhydrous DMF (460 ml) was added sodium hydride (2.77 g--80% in mineral oil, 0.0925 mole) in portions and the resulting mixture was stirred for 30 minutes under a dry argon atmosphere. The solution was then heated to 100° C. and a solution of 2-chloroethyl ether (6.61 g, 0.0463 mole) in anhydrous DMF (90 ml) was added dropwise over a 1.5 h period, maintaining the temperature at 100° C. After stirring the solution an additional 1.5 h at 100° C., H2O (3 l) was added while cooling (ice bath) to crystallize the product. The resulting tan solid was filtered and dried in vacuo. The crude product was purified by crystallization from CH2Cl2 -hexane to give 13.2 g (34% yield) of the product as an off-white solid: mp 197.5°-201° C.; 1H NMR (CDCl3) δ2.44 (s, 12 H), 3.28 (m, 16 H), 3.57 (m, 4H), 7.35 (m, S H), 7.69 (m, 8 H).

reactant | 1,4,7,10-tetra(p-toluenesulfonyl)-1,4,7,10-tetraazadecane | C1(=CC=C(C=C1)S(=O)(=O)NCCN(CCN(CCNS(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)C | C34H42N4O8S4
reactant | sodium hydride | 0.0925 mole | [H-].[Na+]
reactant | 2-chloroethyl ether | 0.0463 mole, 6.61 g | ClCCOCCCl | C4H8Cl2O
reactant | H2O | 3 l | O | H2O
solvent | DMF | 460 ml | CN(C)C=O | C3H7NO
solvent | DMF | 90 ml | CN(C)C=O | C3H7NO
product | 4,7,10,13-Tetra(p-toluenesulfonyl)-1-oxa-4,7,10,13-tetraazacyclopentadecan | 13.2 g, 34% yield | C1(=CC=C(C=C1)S(=O)(=O)N1CCOCCN(CCN(CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)C | C38H48N4O9S4
